US04399152
Preparation of N-(2-chlorobenzoyl)-N'-(4-trifluoromethylphenyl)urea.
18.7 g of 2-chlorobenzoylisocyanate were added to 150 ml of a solution of 17.7 g of 4-trifluoromethylaniline in dry acetonitrile. After stirring at room temperature for a few hours, the crystalline precipitate was sucked off, washed with successively acetonitrile, ethanol and petroleum ether and dried in air. The desired product was obtained in a yield of 29.0 g; melting point 214° C.

reactant | 2-chlorobenzoylisocyanate | 18.7 g | ClC1=C(C(=O)N=C=O)C=CC=C1 | C8H4ClNO2
reactant | 4-trifluoromethylaniline | 17.7 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
solvent | acetonitrile | C(C)#N | C2H3N
product | N-(2-chlorobenzoyl)-N'-(4-trifluoromethylphenyl)urea | ClC1=C(C(=O)NC(=O)NC2=CC=C(C=C2)C(F)(F)F)C=CC=C1 | C15H10ClF3N2O2
